US08304577B2
A stirred solution of (2S)-N-((1R)-2-amino-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide (200 mg, 0.543 mmol), prepared according to the procedure described in example 5, in dichloromethane (4 mL) was cooled to 0° C. To this solution, Boc-L-isoleucine (188 mg, 0.814 mmol), N,N-diisopropylethylamine (0.569 mL, 3.26 mmol) and HATU (310 mg, 0.814 mmol) were added. The ice-water bath was removed and reaction mixture was stirred at room temperature for 3 h. The mixture was transferred to a separatory funnel containing saturated aqueous NaHCO3 solution (60 mL). The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (30→40% ethyl acetate in hexanes) to afford t-butyl (2S,3S)-3-methyl-1-((2R)-2-(4-(2-methylpentyloxy)phenyl)-2-((S)-2-phenylpropanamido)ethylamino)-1-oxopentan-2-ylcarbamate (190 mg, 60% yield) as a colorless solid: LRMS (ESI) m/e 582.4 [(M+H)+, calcd for C34H52N3O5 582.4].

reactant | (2S)-N-((1R)-2-amino-1-(4-(2-methylpentyloxy)phenyl)ethyl)-2-phenylpropanamide | 0.543 mmol, 200 mg | NC[C@@H](C1=CC=C(C=C1)OCC(CCC)C)NC([C@@H](C)C1=CC=CC=C1)=O | C23H32N2O2
reactant | Boc-L-isoleucine | 0.814 mmol, 188 mg | C(=O)(OC(C)(C)C)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | N,N-diisopropylethylamine | 3.26 mmol, 0.569 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.814 mmol, 310 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 60 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | t-butyl (2S,3S)-3-methyl-1-((2R)-2-(4-(2-methylpentyloxy)phenyl)-2-((S)-2-phenylpropanamido)ethylamino)-1-oxopentan-2-ylcarbamate | 190 mg, 60% yield | C[C@H]([C@@H](C(=O)NC[C@H](NC([C@@H](C)C1=CC=CC=C1)=O)C1=CC=C(C=C1)OCC(CCC)C)NC(OC(C)(C)C)=O)CC | C34H51N3O5
